US09102692B2
[5-Amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[6-iodo-1-(toluene-4-sulfonyl)-1H-indol-2-yl]-methanone (80.3 mg, 0.126 mmol), copper (I) iodide (37.5 mg, 0.197 mmol), methanesulfonamide (37.5 mg, 0.394 mmol), sarcosine (36.2 mg, 0.406 mmol), and tripotassium phosphate (86.0 mg, 9.405 mmol) were dissolved in anhydrous 1-methyl-2-pyrrolidinone (0.36 ml), and heated at 140° C. with stirring under an argon atmosphere for 30 minutes. The reaction mixture was added dropwise to an aqueous solution (20 ml) of 20% ammonium chloride, and extracted with ethyl acetate, the organic layer was washed with an aqueous solution of 20% sodium chloride and dried over anhydrous sodium sulfate. The desiccant was removed by filtration. The filtrate was concentrated under reduced pressure, and the resulting residue was purified by amino gel column chromatography (dichloromethane/methanol=15/1) to give N-[2-[5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazole-4-carbonyl]-1-(toluene-4-sulfonyl)-1H-indol-6-yl]methanesulfonamide as a yellow amorphous material (17.9 mg with a yield of 24%).

reactant | [5-Amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[6-iodo-1-(toluene-4-sulfonyl)-1H-indol-2-yl]-methanone | 0.126 mmol, 80.3 mg | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1N(C2=CC(=CC=C2C1)I)S(=O)(=O)C1=CC=C(C=C1)C | C27H21IN6O3S
reactant | methanesulfonamide | 0.394 mmol, 37.5 mg | CS(=O)(=O)N | CH5NO2S
reactant | sarcosine | 0.406 mmol, 36.2 mg | N(C)CC(=O)O | C3H7NO2
reactant | tripotassium phosphate | 9.405 mmol, 86.0 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | 1-methyl-2-pyrrolidinone | 0.36 ml | CN1C(CCC1)=O | C5H9NO
catalyst | copper (I) iodide | 0.197 mmol, 37.5 mg | [Cu]I
product | N-[2-[5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazole-4-carbonyl]-1-(toluene-4-sulfonyl)-1H-indol-6-yl]methanesulfonamide | yield of 24% | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1N(C2=CC(=CC=C2C1)NS(=O)(=O)C)S(=O)(=O)C1=CC=C(C=C1)C | C28H25N7O5S2
